US08012974B2
Racemic cis 4-amino-5-methyl-azepane-1-carboxylic acid tert-butyl ester was prepared in the same manner from racemic cis 4-benzylamino-5-methyl-azepane-1-carboxylic acid tert-butyl ester. In this instance, 1 atm H2 was used instead of 55 psi, Pd/C was used instead of Pd(OH)2/C, EtOAc was used instead of EtOH, and the HCl treatment was omitted.

reactant | racemic cis 4-benzylamino-5-methyl-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC[C@H]([C@H](CC1)C)NCC1=CC=CC=C1 | C19H30N2O2
reactant | HCl | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Racemic cis 4-amino-5-methyl-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC[C@H]([C@H](CC1)C)N | C12H24N2O2
